US03950427
(E)-4-(4-Biphenylyl)-3-butene-2-ol by method C
13.0 Gm (0.0585 mol) of (E)-4-(4-biphenylyl)-3-butene-2-one were gently refluxed with 12.5 gm (0.0612 mol) of aluminum-isopropoxide and 190 ml (2.48 mol) of isopropanol in a dry distillation apparatus with a 60-cm-Vigreux-column, in such a way that only about 5 drops were distilled off per minute. After about 5 hours no acetone was found to be present in the distillate (by use of hydrochloric 2,4-dinitrophenyl-hydrazine-solution). In the reaction mixture, columnchromatography showed no starting material was present. The isopropanol was distilled off in a weak vacuum, the residue was hydrolyzed by addition of 50 gm of crushed ice and 34 ml of 6 N hydrochloric acid. The reaction mixture was exhaustively extracted with ethyl acetate, the combined extracts were washed with water, with 5% sodium hydroxide solution and again with water, and dried over sodium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized, once from cyclohexane/ethyl acetate (ratio by volume: 9:1) and once from benzene. Yield: 11.0 gm (84% of theory) of colorless crystals, m.p. 138°-139°C.

reactant | (E)-4-(4-biphenylyl)-3-butene-2-one | 0.0585 mol | C1(=CC=C(C=C1)/C=C/C(C)=O)C1=CC=CC=C1 | C16H14O
reactant | aluminum isopropoxide | 0.0612 mol, 12.5 gm | [Al].CC([O-])C
reactant | isopropanol | 2.48 mol, 190 ml | C(C)(C)O | C3H8O
product | (E)-4-(4-Biphenylyl)-3-butene-2-ol | C1(=CC=C(C=C1)/C=C/C(C)O)C1=CC=CC=C1 | C16H16O
